US05849759
To 2-methyl-5-(tert-butyldimethylsilyl)oxy-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole (3 g) in THF (50 mL) was added tetrabutyl ammonium fluoride (3 mL, 1M)) at ambient temperature. After stirring at ambient temperature for 30 minutes the solvent was removed. The reaction was worked up between ethyl acetate and H2O. The organic layer was dried and concentrated to afford 2-methyl-5-hydroxy-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole.

reactant | 2-methyl-5-(tert-butyldimethylsilyl)oxy-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole | 3 g | CC1=NC2=C(N1CC1=CC=C(C3=CC=CC=C13)C#N)C=C(C(=C2)O[Si](C)(C)C(C)(C)C)OC2CCN(CC2)C(=O)OC(C)(C)C | C36H46N4O4Si
reactant | tetrabutyl ammonium fluoride | 1M, 3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-methyl-5-hydroxy-6-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole | CC1=NC2=C(N1CC1=CC=C(C3=CC=CC=C13)C#N)C=C(C(=C2)O)OC2CCN(CC2)C(=O)OC(C)(C)C | C30H32N4O4
